* NDB405B ELECTRICAL MODEL (TO-263 N-Ch DMOS)
* ------------------------
.SUBCKT  NDB405B  20  10  30
Rg  10  1  1
M1   2  1  3   3   DMOS    L=1u   W=1u
.MODEL  DMOS  NMOS(VTO={3.4*{-0.00264*TEMP+1.066}}  KP={-0.014*TEMP+6.55}
+  THETA=0.056  VMAX=1.9E5  LEVEL=3)
Cgs   1  3   310p
Rd   20  4   13m TC=0.0064
Dds   3  4   DDS
.MODEL   DDS   D(BV={50*{0.0008*TEMP+0.98}}   M=0.34  CJO=312p   VJ=1.2)
Dbody   3   20   DBODY
.MODEL   DBODY   D(IS=1.4E-13   N=1   RS=116m   TT=52n)
Ra    4    2    55m TC=0.0064
Rs    3    5    2m
Ls    5    30   5n
M2    1    8   6   6   INTER
E2    8    6   4   1   2
.MODEL   INTER   NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax   7   4    600p
Rcgd     7   4    10meg
Dgd      6   4    DGD
Rdgd     4   6    10meg
.MODEL    DGD   D(M=0.54   CJO=900p   VJ=0.214)
M3     7   9   1   1   INTER
E3     9   1   4   1   -2
.ENDS NDB405B
*
.SUBCKT   405THMAL   50  40  100

Rop       50   60   1meg                         ; From input power, use ideal
Cop       60   70   1u   IC=0                    ; opamp to get energy W(t),
E_W       40   70   40   60  1meg                ; assume Rin=infinite & Ro=0

E_Pave    80   40   VALUE = {V(40,70)/(TIME+1n)} ; Get average power by W(t)/t
R80       80   40   1k

E_Tjc    100   40   VALUE = {V(80,40)*3*V(90,40)}; Tjc=Pave(t)*RJC*rjc(t)
R100     100   40   1k

R90       90   40   1k
E_rjc     90   40    table {TIME}                ; Normalized NDx405x Single Pulsed rjc(t)
+ (1e-005, 0.0248642)
+ (1.5e-005, 0.0304524)
+ (2e-005, 0.0351633)
+ (3e-005, 0.0430661)
+ (4e-005, 0.0497285)
+ (5e-005, 0.0555981)
+ (7e-005, 0.0657846)
+ (0.0001, 0.0786276)
+ (0.00015, 0.0962988)
+ (0.0002, 0.111196)
+ (0.0003, 0.136187)
+ (0.0004, 0.157255)
+ (0.0005, 0.175817)
+ (0.0007, 0.208029)
+ (0.001, 0.248642)
+ (0.0015, 0.304523)
+ (0.002, 0.351633)
+ (0.003, 0.424229)
+ (0.00400314, 0.475474)
+ (0.005, 0.510436)
+ (0.00700608, 0.558074)
+ (0.0100093, 0.605311)
+ (0.0148373, 0.650478)
+ (0.0200164, 0.686392)
+ (0.0299671, 0.727997)
+ (0.04, 0.753176)
+ (0.0501139, 0.774458)
+ (0.0698429, 0.800599)
+ (0.0999065, 0.825129)
+ (0.15, 0.852995)
+ (0.2, 0.871143)
+ (0.301229, 0.897258)
+ (0.398779, 0.914537)
+ (0.5, 0.92559)
+ (0.698881, 0.940554)
+ (0.999652, 0.954374)
+ (1.50072, 0.966226)
+ (2.00603, 0.973845)
+ (2.95383, 0.981524)
+ (3.9868, 0.987046)
+ (4.98026, 0.991486)
+ (6.85319, 0.995946)
+ (10, 1)
.ENDS 405THMAL
